* source ENGINEERS PRACTISE
R_R1         N14711 N15106  330R TC=0,0 
V_V1         N14711 0  
+PULSE 0V 3.3V 1ms 1us 1us 500us 2ms
X_VT1         N150402 N15106 0 awb2n3904 PARAMS:                               
+              
R_R2         N150402 N16639  100R TC=0,0 
V_V2         N16639 0 12V
